US04427677
2,2,2-Trifluoroacetic anhydride (21.5 ml) and triethylamine (21.2 ml) were added to the stirred suspension of 2-allyloxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid (syn isomer) (20.0 g) in tetrahydrofuran (110 ml) at -10° to -5° C. and the mixture was stirred for 2 hours at 0° to 5° C. The reaction mixture was poured into a mixture of ethyl acetate and water, and the resultant mixture was adjusted to pH 7.5 with 10% aqueous solution of sodium hydroxide. The separated aqueous layer was adjusted to pH 2.5 with 10% hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over magnesium sulfate and evaporated to give 2-allyloxyimino-2-[2-(2,2,2-trifluoroacetamido)-5-chlorothiazol-4-yl]acetic acid (syn isomer) (14.18 g). m.p. 162° C. (dec.).

reactant | 2,2,2-Trifluoroacetic anhydride | 21.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-allyloxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid | 20.0 g | C(C=C)ON=C(C(=O)O)C=1N=C(SC1Cl)NC=O | C9H8ClN3O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 21.2 ml | C(C)N(CC)CC | C6H15N
product | 2-allyloxyimino-2-[2-(2,2,2-trifluoroacetamido)-5-chlorothiazol-4-yl]acetic acid | 14.18 g | C(C=C)ON=C(C(=O)O)C=1N=C(SC1Cl)NC(C(F)(F)F)=O | C10H7ClF3N3O4S
